US06451804B1
A cooled solution of 5-(2-chlorophenyl)aminomethyl-4-phenylamino-2-methylthiopyrimidine (6 g) and 5.2 mL of triethylamine in 75 mL of tetrahydrofuran was added dropwise 8.5 mL of phosgene (20% in toluene) in 35 mL of tetrahydrofuran. The mixture was stirred at room temperature overnight. Additional 3 mL phosgene (20% in toluene) was added to the mixture. After stirring for 15 minutes the mixture was treated with water and ethyl acetate. The phases were separated and the organic phase was washed with brine, dried over sodium sulfate, filtered and evaporated. The crude product was purified by column chromatography using 10:45 ethyl acetate/hexanes as eluant to give 2.1 g of 3-(2-chlorophenyl)-7-methylthio-1-phenyl-3,4-dihydropyrimido[4,5-d]-pyrimidin-2(1H)-one as a white solid, m.p. 79.5-82.4° C.

reactant | 5-(2-chlorophenyl)aminomethyl-4-phenylamino-2-methylthiopyrimidine | 6 g | ClC1=C(C=CC=C1)NCC=1C(=NC(=NC1)SC)NC1=CC=CC=C1 | C18H17ClN4S
reactant | triethylamine | 5.2 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | 8.5 mL | C(=O)(Cl)Cl | CCl2O
reactant | phosgene | 3 mL | C(=O)(Cl)Cl | CCl2O
reactant | water | O | H2O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-chlorophenyl)-7-methylthio-1-phenyl-3,4-dihydropyrimido[4,5-d]-pyrimidin-2(1H)-one | 2.1 g | ClC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)SC)C1=CC=CC=C1)=O | C19H15ClN4OS
